US07989438B2
Step 10: Methyl 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate
Di-tert-butyl dicarbonate (1.5 eq) and Et3N (3 eq) were added to a 0.1 M solution of methyl 13-cyclohexyl-3-methoxy-6-[2-(methylamino)ethyl]-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate in DCM and the mixture was stirred at RT for 1 h. All volatiles were removed in vacuo and the residual material was dissolved in EtOAc. The resulting solution was washed with sat. aq. NaHCO3 and brine. The organic phase was dried over Na2SO4 and evaporated in vacuo. The residual material was subjected to FC (PE:EtOAc 2:1). After evaporation of the solvent the product was obtained as white solid (45% yield, two steps). (ES+) m/z 561 (M+H)+.

reactant | Di-tert-butyl dicarbonate | 1.5 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 3 eq | CCN(CC)CC | C6H15N
reactant | methyl 13-cyclohexyl-3-methoxy-6-[2-(methylamino)ethyl]-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CC(C2)CCNC)C=C(C=C1)OC)C(=O)OC | C29H36N2O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Methyl 6-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}-13-cyclohexyl-3-methoxy-6,7-dihydro-5H-indolo[2,1-a][2]benzazepine-10-carboxylate | 45% yield | C(C)(C)(C)OC(=O)N(CCC1CN2C(C3=C(C1)C=C(C=C3)OC)=C(C=3C=CC(=CC32)C(=O)OC)C3CCCCC3)C | C34H44N2O5
